US08835423B2
Step 2: tert-butyl [4-(3-hydroxy-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)pyridin-3-yl]carbamate
A mixture of (6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime (80.0 mg, 0.333 mmol), tert-butyl-(4fprmylpyridin-3yl)carbamate lammonium acetate (0.513 g, 6.66 mmol), water (0.12 mL) and acetic acid (0.76 mL) was stirred at 80° C. for 3 h. The solution was diluted with ethyl acetate and water, the organic solution was washed with brine, dried over MgSO4 and concentrated. The crude residue was purified by preparative LCMS to yield the desired product (102 mg, 69%). LCMS for C23H22N7O3(M+H)+: m/z=444.2.

reactant | (6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime | 0.333 mmol, 80.0 mg | N1=CC=CC2=C1NC1=C(/C(/C2=O)=N/O)C=CN=C1 | C12H8N4O2
reactant | acetic acid | 0.76 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.12 mL | O | H2O
product | tert-butyl [4-(3-hydroxy-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)pyridin-3-yl]carbamate | 102 mg, 69% | ON1C(=NC=2C3=C(NC4=C(C21)C=CN=C4)N=CC=C3)C3=C(C=NC=C3)NC(OC(C)(C)C)=O | C23H21N7O3
